US05232940
1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole-3-carboxylic acid (5.6 g) was dissolved in dry N,N-dimethylformamide (50 ml) and triethylamine (1.33 g) added. After cooling to 5° C., a solution of diphenylphosphorylazide (3.63 g) in N,N-dimethylformamide (20 ml) was added. When the solution had reached ambient temperature, it was heated to 35° C. for 21/2 hours. After evaporation in vacuo at a temperature kept below 40° C., a solution of sodium chloride (5 g) in water (100 ml) was added, and the suspension extracted with ether (3×100 ml). The combined extracts were washed with water (50 ml), dried over anhydrous magnesium sulphate and evaporated to give 1-(2,6-dichloro-4-trifluoromethylphenyl)4-trifluoromethylthiopyrazole-3-carboxylic acid azide (5.4 g). A solution of this in dry toluene (200 ml) was heated under reflux with stirring for 1.5 hours, tert-butanol (35 ml) was added, and reflux continued for 4 hours. After evaporation in vacuo the residue was purified by chromatography eluting with dichloromethane to give the title compound (3.3 g) as an off-white solid, m.p. 122°-125° C.

reactant | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole-3-carboxylic acid | 5.6 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C(F)(F)F)C(=S)O | C12H4Cl2F6N2OS
reactant | triethylamine | 1.33 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 3.63 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)4-trifluoromethylthiopyrazole-3-carboxylic acid azide | 5.4 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C(F)(F)F)C(=S)N=[N+]=[N-] | C12H3Cl2F6N5S
